Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Recurrent diverticulitis
 
Major Surgical or Invasive Procedure:
Laparoscopic sigmoid colectomy

 
History of Present Illness:
I saw Ms. ___ in the office today in followup for recurrent 
diverticulitis.  As you know, she is a ___ woman who has 
had at least five episodes of diverticulitis over the last 
several years.  This presents as left lower quadrant pain and 
fever.  She also has noted twinges of discomfort periodically 
that are not quite as dramatic.  She has had several courses of 
antibiotics.  This began in ___.  Her most recent 
episode was in ___ episode was associated with a small 
perforation and others were not.  She is now finding that these 
happen quite often and she does not feel totally well in between 
episodes as well.  She has had a colonoscopy after her first 
attack which showed significant diverticulosis as well as two 
polyps, which were removed, which showed only colonic mucosa on 
pathology.  She otherwise enjoys excellent health and is quite 
active. 

She has had multiple episodes of recurrent diverticulitis in the 
last ___ years and is now quite tired of having this problem. I 
have described the procedure of laparoscopic sigmoid colectomy 
to her including the surgical details and postoperative 
recovery, aims and outcomes, and risks and complications. After 
full discussion and answering all of her questions, a consent 
form was signed in the office.  Operation will be scheduled at 
her convenience.
 
Past Medical History:
One episode of perforated sigmoid diverticulitis treated with 
antibiotics ___
Four episodes of sigmoid diverticulitis without perforation and 
treated with antibiotics ___.

2 C-Sections in ___ and ___
Laparoscopic Cholecystectomy and umbilical hernia repair in ___

 
Social History:
___
Family History:
Mother: had colon cancer at age ___. Died of a basilar stroke at 
age ___. 
Father: heart disease, hypertension, lung cancer (was a heavy 
smoker). 
Siblings: Healthy 
 
Physical Exam:
EXAM UPON DISCHARGE:

Gen: A&Ox3, NAD
Neuro: CN2-12 grossly intact, ___
CV: RRR peripherally
Pulm: breathing comfortably on room air
Abd: soft, nondistended; mildly tender to palpation without 
rebound or guarding; laparoscopic port sites with steri-strips 
in place without erythema or drainage.
Ext: WWP, 2+ capillary refill

 
Brief Hospital Course:
Ms. ___ was admitted on ___ under the ___ Surgery 
service for surgical management of her recurrent diverticulitis. 
She was taken to the operating room and underwent a laparoscopic 
sigmoid colectomy. Please see operative report for details of 
this procedure. She tolerated the procedure well and was 
extubated upon completion. She was subsequently taken to the 
PACU for recovery.

She was transferred to the surgical floor hemodynamically 
stable. Her vital signs were routinely monitored and she 
remained afebrile and hemodynamically stable. She was initially 
given IV fluids postoperatively, which were discontinued when 
she was tolerating PO's. Her diet was advanced to regular the 
morning of ___, which she tolerated without abdominal pain, 
nausea, or vomiting. She was voiding adequate amounts of urine 
without difficulty. She was encouraged to mobilize out of bed 
and ambulate as tolerated, which she was able to do 
independently. Her pain level was routinely assessed and well 
controlled at discharge with Tylenol and NSAIDs. She was also 
discharged with Ativan and Zofran for nausea.
On ___, she was discharged home with scheduled follow up with 
Dr. ___ in clinic.

 
Medications on Admission:
Hormone replacement therapy
Fish oil
Vitamins

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 400-600 mg PO Q6H:PRN Pain - Moderate  
4.  LORazepam 0.25 mg PO Q8H:PRN nausea 
RX *lorazepam 0.5 mg 0.5-1 tablets by mouth every 8 hours Disp 
#*20 Tablet Refills:*0 
5.  Ondansetron 4 mg PO Q6H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*20 Tablet Refills:*0 
6.  norethindrone ac-eth estradiol ___ mg-mcg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Recurrent diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital 
after undergoing laparoscopic sigmoid colectomy. You have 
recovered from surgery and are now ready to be discharged to 
home. Please follow the recommendations below to ensure a speedy 
and uneventful recovery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- Don't lift more than 10 lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
- You may start some light exercise when you feel comfortable.
- You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 
otherwise.
 
HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during surgery.
- You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
- You could have a poor appetite for a while. Food may seem 
unappealing.
- All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.
 
YOUR INCISION:
- Your incision may be slightly red around the edges. This is 
normal.
- If you have steri strips, do not remove them for 2 weeks. 
(These are the thin paper strips that are on your incision.) But 
if they fall off before that that's okay).
- You may gently wash away dried material around your incision.
- It is normal to feel a firm ridge along the incision. This 
will go away.
- Avoid direct sun exposure to the incision area.
- Do not use any ointments on the incision unless you were told 
otherwise.
- You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
- You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
- Over the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:
- You may take a stool softener such as Colace. You can get this 
medicine without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 
PAIN MANAGEMENT:
- It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
- Your pain medicine will work better if you take it before your 
pain gets too severe.
- If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
- Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- You may take Tylenol ___ every 8 hours and you may take 
Ibuprofen 400-600mg every 6 hours. You may find it helpful to 
alternate these medications.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon.
 

 
Followup Instructions:
___